* C:\Git\School\EE435\HW2\LTSpice\Problem4.asc
V1 N003 0 .5V
V2 N005 0 -1V
V3 N001 0 1V
I1 N001 N002 4mA
M1 N002 N003 N005 N004 TSMC180nmN l=0.18u w=4.19u
C1 N002 0 1p
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Jonat\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 10
.include CMOSNNMOS.txt
.backanno
.end
